US05817671
5-(N-[phenylsulfonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.40 gm (1.74 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.267 mL (2.09 mMol) phenylsulfonyl chloride, 0.493 gm (76%) of the title compound were prepared as an orange solid essentially by the procedure described in Example 4. An analytical sample was crystallized from aqueous ethanol.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.74 mMol, 0.40 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | phenylsulfonyl chloride | 2.09 mMol, 0.267 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 5-(N-[phenylsulfonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.493 gm, 76% | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C19H22N4O2S
